US04546113
p-Cyanobenzaldehyde Benzenesulfonylhydrazone
Benzenesulfonyl hydrazine (20.5 g, 0.12 mole) was dissolved by warming in 110 ml absolute ethanol. p-Cyanobenzaldehyde (15.6 g, 0.12 mole) was separately dissolved in 50 ml of hot ethanol and added to the hydrazine solution. The resulting slurry was refluxed 0.5 hour, cooled and filtered to yield 28.1 g; m.p. 209°-213°. Recrystallization from CH3CN gave purified title product: 23.7 g; m.p. 210°-213°.

reactant | Benzenesulfonyl hydrazine | 0.12 mole, 20.5 g | C1(=CC=CC=C1)S(=O)(=O)NN | C6H8N2O2S
reactant | p-Cyanobenzaldehyde | 0.12 mole, 15.6 g | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | hydrazine | NN | H4N2
solvent | ethanol | 110 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | p-Cyanobenzaldehyde Benzenesulfonylhydrazone | C1(=CC=CC=C1)S(=O)(=O)NN=CC1=CC=C(C=C1)C#N | C14H11N3O2S
